US04920128
To a stirred suspension of 14.7 g 2-chloro-6-methoxy-3-quinolinecarbonitrile in 465 ml absolute ethanol was added 17 ml of hydrazine hydrate. The mixture was stirred at reflux for 24 hours and then cooled to 0° C. The resulting solid product was collected by filtration and boiled with 200 ml water to remove any hydrazine dihydrochloride present. The resulting material was filtered and dried in vacuo (90° C.), and recrystallized from 300 ml dimethylformamide to give 12.3 g 6-methoxy-1H-pyrazolo[3,4-b]quinolin-3-amine as a bright-yellow solid, m.p. >300° C.

reactant | 2-chloro-6-methoxy-3-quinolinecarbonitrile | 14.7 g | ClC1=NC2=CC=C(C=C2C=C1C#N)OC | C11H7ClN2O
reactant | hydrazine hydrate | 17 ml | O.NN
reactant | ethanol | 465 ml | C(C)O | C2H6O
product | 6-methoxy-1H-pyrazolo[3,4-b]quinolin-3-amine | 12.3 g | COC=1C=C2C=C3C(=NC2=CC1)NN=C3N | C11H10N4O
